US07514566B2
(S)-tert-butyl 1-(N-(5-bromo-4-(3-hydroxy-3-methylbut-1-ynyl)thiazol-2-yl)-tert-butoxylcarbonylamino)-3-(4-(trifluoromethyl)phenyl)propan-2-ylcarbamate (0.025 g, 0.038 mmol) was taken up in 1 mL of dioxane in a microwave safe tube. Isoquinolin-6-ylboronic acid (0.0098 g, 0.057 mmol), sodium carbonate, 2M in water (0.075 mL, 0.15 mmol), and tetrakistriphenylphosphine palladium(0) (0.0044 g, 0.0038 mmol) were added. The mixture was degassed with nitrogen and the tube was sealed. The tube was then heated to 120° C. in a Personal Chemistry microwave unit for 20 minutes. The mixture was diluted with 10 mL of EtOAc, washed with 5 mL of water and 5 mL of brine, and then dried over MgSO4. Filtration and concentration under reduced pressure, followed by flash chromatography on silica gel (pipette column, 25% to 70% EtOAc/hexanes), afforded (S)-tert-butyl 1-(N-(4-(3-hydroxy-3-methylbut-1-ynyl)-5-(isoquinolin-6-yl)thiazol-2-yl)-tert-butoxylcarbonylamino)-3-(4-(trifluoromethyl)phenyl)propan-2-ylcarbamate (0.010 g, 37% yield) as a white solid.

reactant | (S)-tert-butyl 1-(N-(5-bromo-4-(3-hydroxy-3-methylbut-1-ynyl)thiazol-2-yl)-tert-butoxylcarbonylamino)-3-(4-(trifluoromethyl)phenyl)propan-2-ylcarbamate | 0.038 mmol, 0.025 g | BrC1=C(N=C(S1)N(C[C@H](CC1=CC=C(C=C1)C(F)(F)F)NC(OC(C)(C)C)=O)C(=O)OC(C)(C)C)C#CC(C)(C)O | C28H35BrF3N3O5S
reactant | Isoquinolin-6-ylboronic acid | 0.057 mmol, 0.0098 g | C1=NC=CC2=CC(=CC=C12)B(O)O | C9H8BNO2
reactant | sodium carbonate | C([O-])([O-])=O.[Na+].[Na+]
reactant | water | 0.15 mmol, 0.075 mL | O | H2O
solvent | dioxane | 1 mL | O1CCOCC1 | C4H8O2
product | (S)-tert-butyl 1-(N-(4-(3-hydroxy-3-methylbut-1-ynyl)-5-(isoquinolin-6-yl)thiazol-2-yl)-tert-butoxylcarbonylamino)-3-(4-(trifluoromethyl)phenyl)propan-2-ylcarbamate | 0.010 g, 37% yield | OC(C#CC=1N=C(SC1C=1C=C2C=CN=CC2=CC1)N(C[C@H](CC1=CC=C(C=C1)C(F)(F)F)NC(OC(C)(C)C)=O)C(=O)OC(C)(C)C)(C)C | C37H41F3N4O5S
